US20010002425A1
In a three-neck flask, 100 ml in inner volume, made of glass and provided with a stirrer, 4.0 g (30 mmols) of terephthal aldehyde and 30 g of dichloromethane were placed. The reactants, after having added 8.1 g (75 mmols) of 1,3-propane dithiol, were stirred continuously at 25° C. for 20 minutes and, after having subsequently added 6.3 ml (50 mmols) of a boron trifluoride diethyl ether complex, further stirred continuously at 25° C. for two hours, to form a white precipitate. The resultant white precipitate was filtered, to obtain 6.6 g (70% in yield) of 2,2′-(1,4-phenylene) bis-1,3-dithian (hereinafter referred to as “Intermediate (3)”).

reactant | terephthal aldehyde | 30 mmols, 4.0 g | C(C1=CC=C(C=O)C=C1)=O | C8H6O2
reactant | 1,3-propane dithiol | 75 mmols, 8.1 g | C(CCS)S | C3H8S2
solvent | dichloromethane | 30 g | ClCCl | CH2Cl2
product | 2,2′-(1,4-phenylene) bis-1,3-dithian | 6.6 g, 70% | C1(=CC=C(C=C1)C1SCCCS1)C1SCCCS1 | C14H18S4
